US07414036B2
Tert-butylN-{[7-bromo-2-(dimethylamino)-1,3-benzoxazol-5-yl]methyl}carbamate
A mixture of tert-butylN—(3-amino-5-bromo-4-hydroxybenzyl)carbamate (300 mg, 0.95 mmol) and dichloromethylenedimethylammonium chloride (phosgene iminium chloride, 240 mg, 1.48 mmol) in 10 mL of dry CH2Cl2 was refluxed for 6 h. After cooling the solution was extracted with EtOAc, washed with NaHCO3, brine and dried (MgSO4). After purification by column chromatography (1% MeOH in CH2Cl2) 192 mg (55%) of tert-butylN-{[7-bromo-2-(dimethylamino)-1,3-benzoxazol-5-yl]methyl}carbamate were obtained. 1H NMR (CDCl3) δ 7.14 (s, 1H, H-6); 7.04 (s, 1H, H-4); 5.11 (bs, 1H, NH); 4.31 (d, 2H, J=5.6 Hz, CH2); 3.23, 3.22 (s, 6H, NCH3 2×); 1.48 (s, 9H, (CH3)3C); 13C NMR (CDCl3) δ 163.3 (C-2), 156.2 (CO), 146.6 (C-7a), 145.1 (C-3a), 137.0 (C-5), 122.8 (C-6), 114.3 (C-4), 100.6 (C-7), 79.9 ((CH3)3C), 44.7 (CH2), 38.1 (NCH3×2), 28.8 ((CH3)3C).

reactant | tert-butylN—(3-amino-5-bromo-4-hydroxybenzyl)carbamate | 0.95 mmol, 300 mg | C(C)(C)(C)OC(NCC1=CC(=C(C(=C1)Br)O)N)=O | C12H17BrN2O3
reactant | dichloromethylenedimethylammonium chloride | 1.48 mmol, 240 mg | [Cl-].ClC(Cl)=[N+](C)C
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Tert-butylN-{[7-bromo-2-(dimethylamino)-1,3-benzoxazol-5-yl]methyl}carbamate | C(C)(C)(C)OC(NCC=1C=C(C2=C(N=C(O2)N(C)C)C1)Br)=O | C15H20BrN3O3
